Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Left-sided weakness and facial droop
 
Major Surgical or Invasive Procedure:
- Endovascular thrombectomy (___)

 
History of Present Illness:
Neurology at bedside for evaluation after emergent stroke 
consult
activation within: <10> minutes

Time/Date the patient was last known well: ___ 2300 ___

Pre-stroke mRS ___ social history for description): 0

t-PA Administration 
 [] Yes - Time given: 
 [X] No - Reason t-PA was not given/considered: Outside of time
window

Endovascular intervention: [X]Yes []No

I was present during the CT scanning and reviewed the images
within 20 minutes of their completion.

___ Stroke Scale - Total [10] 

 1a. Level of Consciousness - 0
 1b. LOC Questions - 0
 1c. LOC Commands - 0
 2. Best Gaze - 0
 3. Visual Fields - 1
 4. Facial Palsy - 2
 5a. Motor arm, left - 4
 5b. Motor arm, right - 0
 6a. Motor leg, left - 1
 6b. Motor leg, right - 0
 7. Limb Ataxia - 0
 8. Sensory - 1
 9. Language - 0
 10. Dysarthria - 0
 11. Extinction and Neglect - 1

***
HPI: 
Mr. ___ is a ___ yo man with HTN and hypothyroidism who 
presents
to ED for evaluation of left sided weakness and facial droop. He
was transferred from OSH ___.

Patient was last known well at 11 ___ when he went to bed. At 
4:30
AM, he woke up feeling "off balance", ataxic and fell out of 
bed.
He was able to walk to bathroom, but partner noted some
difficulty.  He went back to sleep and at 0545, he did not get 
up
at his usual time so his family checked on him at 6AM when he 
was
found to have L sided weakness (arm and leg) as well as a facial
droop. He was then taked to OSH ___ for evaluation. He was
noted to have L arm ___ on motor exam) and leg weakness ___ on
motor exam), a mild left facial droop. Weakness was worse in arm
than leg. He was given a ___ stroke scale of 9. His BP was 
166/68
with HR of 76. EKG showed NSR. ___: 12.6 INR: 1.1 He received a
___ CT that showed subtle hypodenisty of the right ___ of the
caudate suggestive of early acute right MCA infarction. He was
then transferred to ___ for further evaluation. 

Per EMS, on his way to ___, he has loss of sensation in his L
arm. In the ___ ED, he denied headache. He had CTA and CT
perfusion per Defuse 3 Research Protocol which showed 
hypodensities in
right MCA distribution and Rt ICA vessel cut off for which he 
was
taken to IA therapy. 

He has been taking ASA 81 for primary prevention since he was ___
yo. He had been off of his usual aspirin for ~5 days to prepare
for a dental procedure. He has no history of stroke. No hx of
neck injury or recent trauma.
 
Past Medical History:
Hypertension
Hypothyroidism
 
Social History:
___
___ History:
Unknown
 
Physical Exam:
==============
ADMISSION EXAM
==============
Vitals: BP: 165/74 HR: 82 RR: 20 99% RA
General: NAD  
HEENT: NCAT, no oropharyngeal lesions, 
Pulmonary: no work of breathing
Extremities: Warm, no edema  

Neurologic Examination:  
___ stroke scale: as above

MS: Awake, alert, oriented x 3. Able to relate history without
difficulty.  Speech is fluent with full sentences, and intact
verbal comprehension. Naming intact. No paraphasias. No
dysarthria. Normal prosody. No apraxia. Able to follow both
midline and appendicular commands. 
 
Cranial Nerves - PERRL 3->2 ___. He has a left superior
quadrantanopia. EOMI, no nystagmus. V1-V3 without deficits to
light touch bilaterally. Left facial droop (mostly asymmetric
smile). Tongue deviates slightly to left.  

Motor - Unable to move left arm at all. Left leg can be held up
for 10 seconds but with significant drift. 

Sensory - Intact sensation bilaterally to light touch. +
extinction to DSS on the left upper and lower extremities

DTRs:  ___, especially arms, L>R
Plantar response flexor bilaterally.  

Coordination - No dysmetria with finger to nose testing
bilaterally (tested only on Rt) 

Gait - Deferred.

==============
DISCHARGE EXAM
==============
Tmax: 99
Tcurrent: 98.2
HR: ___
BP: 123-139/70-78mmHg
RR: 16- 18insp/min
SpO2: 96-98% 
Heart rhythm: SR (Sinus Rhythm)

-GEN: Awake in bed, NAD
-HEENT: NC/AT
-NECK: Supple
-CV: RRR, no m/r/g
-PULM: CTA anteriorly. 
-ABD: Soft, NT/ND. Bowel sounds present. 
-EXT: Warm, well-perfused. No clubbing, cyanosis, or edema. 

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate 
history without difficulty. Attentive, able to name ___ backward 
without difficulty. Speech is fluent with full sentences, intact 
repetition, and intact verbal comprehension. Naming intact.  No 
paraphasias.  No dysarthria. Normal prosody. Able to register 3 
objects and recall ___ at 5 minutes. No apraxia. No evidence of 
hemineglect. No left-right confusion.  Able to follow both 
midline and appendicular commands.

- Cranial Nerves: PERRL 2.5->2. VF full to number counting. 
EOMI, no nystagmus. Slight ptosis on right. V1-V3 without 
deficits to light touch bilaterally. Left lower facial droop. 
Hearing intact to finger rub bilaterally.  Palate elevation 
symmetric. SCM/Trapezius strength ___ bilaterally. Tongue 
midline.

- Motor: Subtle drift asterexis of LUE.
  Delt Bic Tri ECR IO IP Quad Ham TA Gas ___
L 5    ___   ___    ___   5    5
R 5    ___   ___    ___   5    4-  

- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  2+    2+     2+      2+       0
 R  2+    2+     2+      2+       2+ 
Plantar response extensor on left. 

- Sensory: Extinction to DSS on LUE/LLE. Intact to LT and PP in 
all four extremities. 

- Coordination: No dysmetria with finger to nose testing 
bilaterally. Good speed and intact cadence with rapid 
alternating movements.

- Gait: Normal initiation. Narrow base. Normal stride length and 
arm swing. Stable without sway. Negative Romberg.

 
Pertinent Results:
====
LABS
====
___ 08:30AM BLOOD WBC-9.5 RBC-4.45* Hgb-14.5 Hct-42.5 
MCV-96 MCH-32.6* MCHC-34.1 RDW-13.7 RDWSD-48.6* Plt ___
___ 06:50AM BLOOD WBC-8.6 RBC-3.51* Hgb-11.3*# Hct-34.1* 
MCV-97 MCH-32.2* MCHC-33.1 RDW-14.4 RDWSD-51.3* Plt ___
___ 07:10AM BLOOD WBC-9.1 RBC-3.50* Hgb-11.3* Hct-33.6* 
MCV-96 MCH-32.3* MCHC-33.6 RDW-13.8 RDWSD-48.7* Plt ___
___ 08:30AM BLOOD ___ PTT-31.2 ___
___ 08:30AM BLOOD UreaN-21*
___ 08:30AM BLOOD Creat-1.1
___ 06:50AM BLOOD Glucose-105* UreaN-13 Creat-0.9 Na-138 
K-3.5 Cl-103 HCO3-23 AnGap-16
___ 07:10AM BLOOD Glucose-107* UreaN-10 Creat-0.9 Na-138 
K-3.5 Cl-103 HCO3-22 AnGap-17
___ 06:50AM BLOOD Calcium-8.3* Phos-2.9 Mg-2.1
___ 07:10AM BLOOD Calcium-8.4 Phos-2.4* Mg-2.0 Cholest-185
___ 07:10AM BLOOD %HbA1c-5.4 eAG-108
___ 07:10AM BLOOD Triglyc-116 HDL-61 CHOL/HD-3.0 
LDLcalc-101

=======
IMAGING
=======
- ___ CTA ___ & Neck (8:44AM)
1. Edema in the right MCA territory noted on noncontrast ___ CT 
concerning for an acute infarct. 
2. Greater than 90% stenosis of the right internal carotid 
artery at the carotid bifurcation with decreased distal flow and 
the cervical internal carotid arteries 
3. Abrupt drop-off of the right M1 and nonvisualization of the 
right M2 segments with collateral vessel seen in the right M3 
and M4 regions could be due to intrinsic thrombus in the M1 
segment. 

- ___ Neuro Intervention
1. Tandem occlusion of the internal carotid artery at the 
carotid bifurcation and the carotid terminus. 
2. Successful placement of right carotid stent 
3. Successful mechanical thrombectomy with stent retrieval 
device and suction aspiration catheter. TICI 2B recanalization. 

- ___ CT ___ WO Contrast (5:21PM)
1. There is acute infarct in the right insula, also seen earlier 
today.  There is zone of mild hyperdensity in the right putamen, 
caudate ___, most consistent with contrast staining given 
clinical circumstance, and likely represents evolving infarct or 
tissue at risk for infarct.  Some of this hyperdense zone 
demonstrated low-attenuation areas of acute infarct on ___ CT 
of earlier today.  Hemorrhage is unlikely.  Close clinical and 
imaging follow-up recommended.  Possible additional tiny zone of 
contrast staining in the cortex of right middle frontal gyrus. 

- ___ MRI/MRA/MR-Perfusion ___ & Neck WWO Contrast
1. Acute right basal ganglia infarct involving the insular 
cortex with punctate areas of acute infarct in the right frontal 
convexity region. 
2. Small area hemorrhage within the right putamen. 
3. Unsuccessful dynamic susceptibility perfusion imaging 
secondary to 
technical reasons. 
4. No significant abnormalities on MRA of the ___. 
5. Neck MRA shows flow proximal and distal to the site of the 
stent with decreased flow signal intrinsically within the stent. 
 It is unclear whether this is secondary to intra stent stenosis 
or artifacts. 

- ___ MR ___ W Contrast
1. Decreased blood flow, blood volume with increased mean 
transit time centered in the right putamen and posterior right 
insula compatible with regions of known infarct. 
2. T-max demonstrates hypoperfusion along the right frontal, 
parietal and temporal lobe with dominant region centered at the 
angular and supra marginal gyrus. 

- ___ TTE
The left atrium is normal in size. No atrial septal defect or 
patent foramen ovale is seen by 2D, color Doppler or saline 
contrast with maneuvers. Left ventricular wall thicknesses are 
normal. The left ventricular cavity size is normal. Due to 
suboptimal technical quality, a focal wall motion abnormality 
cannot be fully excluded. Overall left ventricular systolic 
function is normal (LVEF = 65%). Right ventricular chamber size 
and free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) are mildly thickened but aortic stenosis is not 
present. No aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. Trivial mitral regurgitation is 
seen. The estimated pulmonary artery systolic pressure is 
normal. There is no pericardial effusion.  

 
Brief Hospital Course:
Mr. ___ is a ___ year-old man hypertension and hypothyroidism 
who presented with left-sided face/arm/leg weakness and was 
found to have an right carotid occlusion and M1 cutoff. He was 
outside of the tPA window and underwent thrombectomy under the 
DEFUSE-3 trial protocol. His symptoms resolved to near baseline 
following the procedure. Only immediate residua are mild left 
arm drift, extinction to double simultaneous stimulation on the 
left, and left extensor plantar reflex. Etiology is 
cardioembolic vs atheroembolic vs paradoxical-embolic. Home 
pending TTE. 

Mr. ___ is a ___ year-old man with hypertension and 
hypothyroidism who presented with left-sided face/arm/leg 
weakness, left superior quadrantanopia, and sensory extinction. 
He was found to have a right internal carotid occlusion at the 
bifurication and at the terminus. He was outside of the tPA 
window and was enrolled in the DEFUSE-3 trial. He underwent 
mechanical thrombectomy 10.5 hours after he was last known well. 
A stent was placed in the proximal right carotid and clot was 
retrieved from the carotid terminus with successful TICI IIb 
re-perfusion. By the subsequent day almost all of his symptoms 
had resolved - the only residua being mild left lower facial 
weakness, and intermittent extinction to simultaneous 
stimulation on the left side. His ultimate areas of stroke on 
MRI included the right basal ganglia involving the insula and 
right frontal convexity.  His stroke risk factors were assessed 
and minimal -- A1c was 5.6%, LDL 101. TTE did not reveal any 
embolic source. The most likely mechanism of the right MCA 
occlusion was artery-to-artery from the right ICA, possibly made 
more likely by his recent 5-day discontinuation of his home 
aspirin for an upcoming dental procedure. 
- CONTINUE Plavix for the next 3 months, for the stability of 
the ICA stent. 
- CONTINUE aspirin 325mg DAILY indefinitely. 
- CONTINUE atorvastatin 40mg DAILY indefinitely. 
- Follow-up with stroke neurology (Dr. ___ in 4 
weeks and 3 months.

=====================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed  () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No
4. LDL documented? (x) Yes (LDL = 101) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL >100, reason not given: ]
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Levothyroxine Sodium 50 mcg PO DAILY 
3. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth QPM Disp #*30 Tablet 
Refills:*3 
2.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth DAILY Disp #*30 
Tablet Refills:*2 
3.  Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth DAILY Disp #*30 Tablet 
Refills:*3 
4.  Hydrochlorothiazide 25 mg PO DAILY  
5.  Levothyroxine Sodium 50 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute Ischemic Stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were hospitalized due to symptoms of left-sided weakness 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms. Fortunately, we were able to remove 
the clot which reversed most of your symptoms and before more 
permanent damage occurred. 

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
- High cholesterol
- High blood pressure

We are changing your medications as follows:
- STOP aspirin 81mg. 
- START aspirin 325mg DAILY. Take this indefinitely. 
- START Plavix (clopidogrel) 75mg DAILY for the next 3 months. 
- START Lipitor (atorvastatin) 40mg DAILY. Take this 
indefinitely. 

Please take your other medications as prescribed.

Please followup with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___